US04977146
trans-2-[3-(2-Hydroxyethylsulfonyl)-4-n-propoxy-5-(2-oxo-propoxy)phenyl]-5-(3,4,5-trimethoxy-phenyl)tetrahydrofuran
A mixture of trans-2-[3-(2-hydroxyethylsulfonyl)-4-n-propoxy-5-hydroxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran (183 mg, 0.37 mmol), chloroacetone (0.033 mL, 0.41 mmol) and potassium carbonate (162 mg, 1.17 mmol) in DMF (3 mL) was stirred at room temperature overnight. Ethyl ether and water were added and the aqueous layer was re-extracted with ether (2 x). The organic extracts were combined, dried, and evaporated to a syrup, which was purified by preparative TLC (hexane-ethyl acetate; 1:2, v/v) to give the title compound Rf 0.33; NMR (CDCl3) δ 1.06 (t, CH2CH2CH3), 2.33 (s, CH2COCH3), 3.66 (q, SO2CH2CH2), 3.97 (b, SO2CH2CH2) 4.20 (t, CH2CH2CH3), 4.68 (s, CH2COCH3), 5.12-5.28 (m, H-2 & H-5), 6.62 (s, 2 H, C5ArH), 7.17 & 7.56 (2 d, 2 H, C2ArH).

reactant | trans-2-[3-(2-hydroxyethylsulfonyl)-4-n-propoxy-5-hydroxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran | 0.37 mmol, 183 mg | OCCS(=O)(=O)C=1C=C(C=C(C1OCCC)O)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C24H32O9S
reactant | chloroacetone | 0.41 mmol, 0.033 mL | ClCC(C)=O | C3H5ClO
reactant | potassium carbonate | 1.17 mmol, 162 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl ether | C(C)OCC | C4H10O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | trans-2-[3-(2-Hydroxyethylsulfonyl)-4-n-propoxy-5-(2-oxo-propoxy)phenyl]-5-(3,4,5-trimethoxy-phenyl)tetrahydrofuran | OCCS(=O)(=O)C=1C=C(C=C(C1OCCC)OCC(C)=O)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C27H36O10S
